US05001142
(R)-2-[3-(1-Pyrrolidinyl)-1-propynyl]-1-pyrrolidine-carboxylic acid, 1,1-dimethylethyl ester
A mixture of 3.5 g of (R)-2-ethynyl-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester, 75 ml dry dioxane, 3.0 ml pyrrolidine, 1.43 g of paraformaldehyde, 7.0 ml of glacial acetic acid and 50 mg of cuprous chloride is stirred at room temperature for 15 minutes then refluxed for 2 hours. The reaction is cooled and concentrated in vacuo. The residue is partitioned between water and methylene chloride and the pH of the mixture is adjusted to pH 11 with ammonium hydroxide. The basified reaction is extracted with methylene chloride and dried over sodium sulfate. The methylene chloride solution is passed over hydrous magnesium silicate and concentrated in vacuo to give 5.65 g of a dark yellow oil. The product is purified by chromatography using deactivated alumina as the absorbant, to give 0.55 g of the product as a pale yellow oil, [α]D26° =+100.6°±0.8 (C=1.22%, methylene chloride).

reactant | (R)-2-ethynyl-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester | 3.5 g | C(#C)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C11H17NO2
reactant | dioxane | 75 ml | O1CCOCC1 | C4H8O2
reactant | pyrrolidine | 3.0 ml | N1CCCC1 | C4H9N
reactant | paraformaldehyde | 1.43 g | C=O | CH2O
solvent | acetic acid | 7.0 ml | C(C)(=O)O | C2H4O2
product | (R)-2-[3-(1-Pyrrolidinyl)-1-propynyl]-1-pyrrolidine-carboxylic acid, 1,1-dimethylethyl ester | 5.65 g | N1(CCCC1)CC#C[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C16H26N2O2
